US07759365B2
4-(2-ETHYL-6-FLUORO-3-{1-[3-(4-FLUORO-PHENYLSULFANYL)-PROPYL]-PIPERIDIN-4-YL}-INDOL-1-YL)-BENZOIC ACID ETHYL ESTER
To a mixture of 2-ethyl-6-fluoro-3-{1-[3-(4-fluoro-phenylsulfanyl)-propyl]-piperidin-4-yl}-1H-indole (430 mg), p-iodobenzoic acid ethyl ester (716 mg), potassium carbonate (359 mg), copper iodide (52 mg) and zinc oxide (14 mg) in a reactor vial under argon is added NMP (3 ml) and the reaction heated by microwaves irradiation at 160° C. After 120 min, water is added and the suspension extracted with DCM. Preparative HPLC provides 150 mg pure product (26%) as a beige solid. R.t. 4.81 min.

reactant | 2-ethyl-6-fluoro-3-{1-[3-(4-fluoro-phenylsulfanyl)-propyl]-piperidin-4-yl}-1H-indole | 430 mg | C(C)C=1NC2=CC(=CC=C2C1C1CCN(CC1)CCCSC1=CC=C(C=C1)F)F | C24H28F2N2S
reactant | p-iodobenzoic acid ethyl ester | 716 mg | C(C)OC(C1=CC=C(C=C1)I)=O | C9H9IO2
reactant | potassium carbonate | 359 mg | C([O-])([O-])=O.[K+].[K+]
reactant | NMP | 3 ml | CN1CCCC1=O | C5H9NO
catalyst | copper iodide | 52 mg | [Cu](I)I
catalyst | zinc oxide | 14 mg | [O-2].[Zn+2]
solvent | water | O | H2O
product | 4-(2-ETHYL-6-FLUORO-3-{1-[3-(4-FLUORO-PHENYLSULFANYL)-PROPYL]-PIPERIDIN-4-YL}-INDOL-1-YL)-BENZOIC ACID ETHYL ESTER | 150 mg, 26% | C(C)OC(C1=CC=C(C=C1)N1C(=C(C2=CC=C(C=C12)F)C1CCN(CC1)CCCSC1=CC=C(C=C1)F)CC)=O | C33H36F2N2O2S
